US06437139B1
Starting with 2-carboxy-4-chloro-3,5-lutidine, a sodium methoxide nucleophilic substitution reaction was conducted as described above for 24 hours. The aqueous layer was acidified to pH 2.5 with concentrated Hydrochloric acid. The precipitate was filtered and washed with water and dried under vacuum at 50ℑ C. The 2-carboxy-4-hydroxy-3,5-lutidine product was obtained as a light brown solid in 89% yield.

reactant | 2-carboxy-4-chloro-3,5-lutidine | C(=O)(O)C1=NC=C(C(=C1C)Cl)C | C8H8ClNO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
product | 2-carboxy-4-hydroxy-3,5-lutidine | 89% yield | C(=O)(O)C1=NC=C(C(=C1C)O)C | C8H9NO3
